US05244863
To a solution of N-cyano-3-trifluoromethylaniline (5.0 g) in acetone (100 ml), potassium carbonate (7.4 g) and propargyl bromide (3.5 g) were added, and the resultant mixture was stirred at room temperature for 10 hours, followed by filtration of the reaction mixture. The solvent was removed from the filtrate by distillation under reduced pressure, and the residue was subjected to column chromatography to give N-cyano-N-propargyl-3-trifluoromethylaniline (3.8 g). The thus obtained N-cyano-N-propargyl-3-trifluoromethylaniline (1 g) and a catalytic amount of triethylamine were dissolved in methanol (30 ml), and the resultant mixture was cooled to 0° C. Hydrogen sulfide was gradually introduced into the mixture for 20 minutes while keeping the temperature at 0° C., followed by introduction of nitrogen gas to remove hydrogen sulfide. The solvent was removed by distillation, and the residue was subjected to column chromatography to give 0.2 g of 2-imino-3-(3-trifluoromethylphenyl)-5-methylenethiazolidine (Compound (ix)).

reactant | N-cyano-3-trifluoromethylaniline | 5.0 g | C(#N)NC1=CC(=CC=C1)C(F)(F)F | C8H5F3N2
reactant | potassium carbonate | 7.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 3.5 g | C(C#C)Br | C3H3Br
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-cyano-N-propargyl-3-trifluoromethylaniline | 3.8 g | C(#N)N(C1=CC(=CC=C1)C(F)(F)F)CC#C | C11H7F3N2
